US05622954
To a stirring solution of 41.7 grams (0.226 mole) of 2-methyl-2-(4-chlorophenyl)propanol in 100 mL of dimethyl sulfoxide is added 126 mL (0.904 mole) of triethylamine. A solution of 63.0 grams (0.452 mole) of triethylamine-sulfur trioxide complex in 300 mL of dimethyl sulfoxide is then added portionwise during a 15 minute period. Upon completion of addition, the reaction mixture is stirred at ambient temperature for about five hours. The reaction mixture is then poured into about 500 mL of ice, and made acidic with aqueous 2N hydrochloric acid. The mixture is then extracted with two 100 mL portions of diethyl ether. The combined extracts are dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding 22.9 grams of 2-methyl-2-(4-chlorophenyl)propanaldehyde. The NMR spectrum is consistent with the proposed structure.

reactant | 2-methyl-2-(4-chlorophenyl)propanol | 0.226 mole, 41.7 grams | CC(CO)(C)C1=CC=C(C=C1)Cl | C10H13ClO
reactant | triethylamine | 0.904 mole, 126 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 300 mL | CS(=O)C | C2H6OS
product | 2-methyl-2-(4-chlorophenyl)propanaldehyde | 22.9 grams | CC(C=O)(C)C1=CC=C(C=C1)Cl | C10H11ClO
